US07338958B2
Production of (RS)-S-[4-({5-bromo-4-[(RS)-(1-hydroxymethyl-propyl)sulfanyl]pyrimidin-2-yl}amino)phenyl]-S-methyl sulfoximide
362 mg of (RS)-S-{4-[(5-bromo-4-chloropyrimidin-2-yl)amino]phenyl}-S-methyl sulfoximide is dissolved in 1.5 ml of dimethylformamide, mixed with 0.5 ml of triethylamine and 320 mg of (RS)-2-mercapto-butan-1-ol and stirred for 18 hours at room temperature. The mixture is evaporated to the dry state in a vacuum and purified by flash chromatography (dichloromethane/ethanol). 255 mg of the product with a melting point of 175-180° C. is obtained.

reactant | (RS)-S-{4-[(5-bromo-4-chloropyrimidin-2-yl)amino]phenyl}-S-methyl sulfoximide | 362 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)C)Cl | C11H10BrClN4OS
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | (RS)-2-mercapto-butan-1-ol | 320 mg | SC(CO)CC | C4H10OS
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | (RS)-S-[4-({5-bromo-4-[(RS)-(1-hydroxymethyl-propyl)sulfanyl]pyrimidin-2-yl}amino)phenyl]-S-methyl sulfoximide | 255 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)C)SC(CC)CO | C15H19BrN4O2S2
